US08809339B2
N1-(2-(2-hydroxyethoxy)ethyl)-N3-(4-(piperidin-1-yl)-2-((5-(3-(trifluoromethyl)phenyl)pyrazin-2-yl)carbamoyl)phenyl)isophthalamide
Into a 50-mL round bottom flask, was placed a solution of 3-((2-(2-hydroxyethoxy)-ethyl)carbamoyl)benzoic acid (189.3 mg, 0.75 mmol, 1.10 equiv) in N,N-dimethylformamide (2.5 mL), HATU (1034 mg, 2.72 mmol, 4.00 equiv), and N-ethyl-N-isopropylpropan-2-amine (351 mg, 2.72 mmol, 4.00 equiv). This was followed by dropwise addition of a solution of 2-amino-5-(piperidin-1-yl)-N-(5-(3-(trifluoromethyl)phenyl)-pyrazin-2-yl)benzamide (300 mg, 0.68 mmol, 1.00 equiv) in N,N-dimethylformamide (2.5 mL) with stirring. The resulting solution was stirred overnight at 40° C. in an oil bath. The resulting solution was diluted with 50 mL of ethyl acetate. The resulting mixture was washed with 2×20 mL of brine, dried over anhydrous sodium sulfate, and concentrated under vacuum. The crude product was purified by reverse phase HPLC eluting with 0.05% TFA in a water/CH3CN gradient.

reactant | 3-((2-(2-hydroxyethoxy)-ethyl)carbamoyl)benzoic acid | 0.75 mmol, 189.3 mg, 1.10 equiv | OCCOCCNC(=O)C=1C=C(C(=O)O)C=CC1 | C12H15NO5
reactant | HATU | 2.72 mmol, 1034 mg, 4.00 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethyl-N-isopropylpropan-2-amine | 2.72 mmol, 351 mg, 4.00 equiv | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-amino-5-(piperidin-1-yl)-N-(5-(3-(trifluoromethyl)phenyl)-pyrazin-2-yl)benzamide | 0.68 mmol, 300 mg, 1.00 equiv | NC1=C(C(=O)NC2=NC=C(N=C2)C2=CC(=CC=C2)C(F)(F)F)C=C(C=C1)N1CCCCC1 | C23H22F3N5O
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N1-(2-(2-hydroxyethoxy)ethyl)-N3-(4-(piperidin-1-yl)-2-((5-(3-(trifluoromethyl)phenyl)pyrazin-2-yl)carbamoyl)phenyl)isophthalamide | OCCOCCNC(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C(NC2=NC=C(N=C2)C2=CC(=CC=C2)C(F)(F)F)=O)=CC=C1)=O | C35H35F3N6O5
